US08278486B2
Methyl 4-(2,4,5-trifluorophenyl)acetoacetate
To a solution of 2,4,5-trifluorophenyl acetic acid (42.2 g, 222 mmol) in THF (400 mL) was added 1,1′-carbonyldiimidazole (39.5 g, 244 mmol) in portions at 0° C. The mixture was warmed to room temperature for 1 h, stirred at room temperature for another 1 h, and transferred to another flask containing 1.1 equivalent of methyl malonic acid magnesium salt. The stirring was continued for 24 h and quenched with 1N HCl. The mixture was extracted with dichloromethane and the organic phase was washed with saturated sodium bicarbonate, then brine, then dried over sodium sulfate, filtered and evaporated. The residue was crystallized from isopropanol/water to give 42.2 g (77.3%) of off-white solid. 1H NMR (300 MHz, CDCl3) 7.10-6.90 (m, 2H), 3.85 (s, 2H), 3.78 (s, 3H), 3.55 (s, 2H)

reactant | 2,4,5-trifluorophenyl acetic acid | 222 mmol, 42.2 g | FC1=C(C=C(C(=C1)F)F)CC(=O)O | C8H5F3O2
reactant | 1,1′-carbonyldiimidazole | 244 mmol, 39.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methyl malonic acid magnesium salt | 1.1 equivalent | [Mg+2].CC(C(=O)[O-])C(=O)[O-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | Methyl 4-(2,4,5-trifluorophenyl)acetoacetate | 42.2 g, 77.3% | FC1=C(C=C(C(=C1)F)F)CC(CC(=O)OC)=O | C11H9F3O3
